************************************************************************
* auCdl Netlist:
* 
* Library Name:  DETFF
* Top Cell Name: TGFF
* View Name:     schematic
* Netlisted on:  May  6 15:17:31 2026
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: DETFF
* Cell Name:    TGFF
* View Name:    schematic
************************************************************************

.SUBCKT TGFF CLK D Q gnd vdd
*.PININFO CLK:I D:I Q:O gnd:B vdd:B
MPM24 CLKA CLKB vdd vdd g45p1svt m=1 l=45n w=600n
MPM23 CLKB CLK vdd vdd g45p1svt m=1 l=45n w=600n
MPM15 net12 CLKB net8 vdd g45p1svt m=1 l=45n w=600n
MPM16 net20 net12 vdd vdd g45p1svt m=1 l=45n w=600n
MPM17 net8 net20 vdd vdd g45p1svt m=1 l=45n w=600n
MPM18 net20 CLKB net10 vdd g45p1svt m=1 l=45n w=600n
MPM22 Q net5 vdd vdd g45p1svt m=1 l=45n w=600n
MPM20 net10 CLKA net23 vdd g45p1svt m=1 l=45n w=600n
MPM19 net23 net5 vdd vdd g45p1svt m=1 l=45n w=600n
MPM14 net3 CLKA net12 vdd g45p1svt m=1 l=45n w=600n
MPM21 net5 net10 vdd vdd g45p1svt m=1 l=45n w=600n
MPM0 net3 D vdd vdd g45p1svt m=1 l=45n w=600n
MNM24 CLKA CLKB gnd gnd g45n1svt m=1 l=45n w=300n
MNM23 CLKB CLK gnd gnd g45n1svt m=1 l=45n w=300n
MNM15 net12 CLKA net8 gnd g45n1svt m=1 l=45n w=300n
MNM19 net23 net5 gnd gnd g45n1svt m=1 l=45n w=300n
MNM16 net20 net12 gnd gnd g45n1svt m=1 l=45n w=300n
MNM18 net10 CLKB net23 gnd g45n1svt m=1 l=45n w=300n
MNM17 net8 net20 gnd gnd g45n1svt m=1 l=45n w=300n
MNM14 net3 CLKB net12 gnd g45n1svt m=1 l=45n w=300n
MNM22 Q net5 gnd gnd g45n1svt m=1 l=45n w=300n
MNM21 net20 CLKA net10 gnd g45n1svt m=1 l=45n w=300n
MNM0 net3 D gnd gnd g45n1svt m=1 l=45n w=300n
MNM20 net5 net10 gnd gnd g45n1svt m=1 l=45n w=300n
.ENDS

